US09108921B2
t-butyl-4-oxopiperidine-1-carboxylate (10 g, 0.05 mol) was dissolved in 3-bromo-2-methylprop-1-ene (16.9 g, 0.126 mol), THF (100 mL) and saturated ammonium chloride solution (500 mL). The reaction was cooled to 10° C. and zinc dust (6.6 g, 0.01 mol) was added portionwise. After addition, the reaction mixture was stirred overnight, when TLC (heptane/EtOAc 7:1) indicated that the reaction was complete. The reaction mixture was then diluted with water and acidified with 10% H2SO4 to pH 6. The reaction mixture was extracted with ethyl acetate (3×50 mL). The organic layers were combined and washed with saturated solution of NaHCO3, brine and evaporated to give tert-butyl 4-hydroxy-4-(2-methylallyl)piperidine-1-carboxylate (12.28 g). 1H NMR (CHLOROFORM-d) δ: 4.94-5.04 (m, 1H), 4.80 (s, 1H), 3.85 (dt, J=13.0, 3.4 Hz, 2H), 3.08-3.26 (m, 2H), 2.21 (s, 2H), 1.86 (s, 3H), 1.52-1.60 (m, 4H), 1.43-1.50 (m, 9H).

reactant | t-butyl-4-oxopiperidine-1-carboxylate | 0.05 mol, 10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 3-bromo-2-methylprop-1-ene | 0.126 mol, 16.9 g | BrCC(=C)C | C4H7Br
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
catalyst | zinc | 0.01 mol, 6.6 g | [Zn] | Zn
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-hydroxy-4-(2-methylallyl)piperidine-1-carboxylate | 12.28 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)CC(=C)C | C14H25NO3
